US06239151B1
A solution of 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 4 ml of dimethylformamide was cooled to 0° C. and treated with 0.351 g of N-acetyl-glycine and 690 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride. The mixture was stirred at room temperature for 16 hours and evaporated. The residue in ethyl acetate was washed with 5% sodium hydrogen carbonate solution and water, dried over anhydrous magnesium sulphate and evaporated. The resulting solid was triturated with diethyl ether and filtered off to give 0.436 g of (E)-2′-(2-acetamidoacetyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
reactant | N-acetyl-glycine | 0.351 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodimide hydrochloride | 690 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (E)-2′-(2-acetamidoacetyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.436 g | C(C)(=O)NCC(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)CC(C)C | C30H46N4O6
